US04210750
5 g. of potassium 3-hydroxymethyl-7-[N-(t-butoxycarbonyl)amino]-3-cephem-4-carboxylate is reacted with 2,2,2-trichloroethoxycarbonyl isocyanate and the resulting product is deblocked following the procedures described in Example 5 to afford 3-carbamoyloxymethyl-7-[N-(t-butoxycarbonyl)amino]-3-cephem-4-carboxylic acid.

reactant | potassium 3-hydroxymethyl-7-[N-(t-butoxycarbonyl)amino]-3-cephem-4-carboxylate | OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(=O)OC(C)(C)C)=O.[K+]
reactant | 2,2,2-trichloroethoxycarbonyl isocyanate | ClC(COC(=O)N=C=O)(Cl)Cl | C4H2Cl3NO3
product | 3-carbamoyloxymethyl-7-[N-(t-butoxycarbonyl)amino]-3-cephem-4-carboxylic acid | C(N)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(=O)OC(C)(C)C)=O | C14H19N3O7S
